US04814423
Preparation of Urethane Dimethacrylate (UDMA)
To a mechanically-stirred mixture of 28.59 weight parts of trimethylhexamethylene diisocyanate and 0.04 weight part of stannous octoate in a reactor and purged with dry air, there is added 44.80 weight parts of polytetramethylene ether glycol, while maintaining the reaction temperature at 50° to 60° C. After the addition is complete, the mixture is heated to 70° to 80° C. and held for 3 hours. A 26.58 weight parts of hydroxyethyl methacrylate (HEMA) was added and the mixture was stirred at 70° to 80° C. until the percent NCO assay was below 0.01%.

reactant | trimethylhexamethylene diisocyanate | CC(C(C)(C)N=C=O)CCCCN=C=O | C11H18N2O2
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
product | Urethane Dimethacrylate | C(C(=C)C)(=O)O.C(C(=C)C)(=O)O.NC(=O)OCC | InChI=1S/2C4H6O2.C3H7NO2/c2*1-3(2)4(5)6;1-2-6-3(4)5/h2*1H2,2H3,(H,5,6);2H2,1H3,(H2,4,5)
